US08378095B2
2-(1-methylpiperazin-2-yl)ethanol was prepared by dissolving methyl 2-(1-methyl-3-oxopiperazin-2-yl)acetate (0.500 g, 2.50 mmol, prepared according to Abelman et al., Tetrahedron Letters, 44 (2003), 1823-1826) in THF (10 ml) followed by addition of LiAlH4 (2M in THF, 3.12 ml, 6.24 mmol). The resulting solution was refluxed for 2 h, concentrated in vacuo, basified to pH12 with 1M NaOH solution and filtered through a celite pad. The filtrate was purified by SPE using a TsOH cartridge to give 2-(1-methylpiperazin-2-yl)ethanol as a golden oil (0.125 g, 0.87 mmol). 2-(2,6-difluorophenyl)-5-(4-(2-(2-hydroxyethyl)-1-methylpiperazine-4-carbonyl)phenylamino)oxazole-4-carboxamide was then prepared using the method described in example U-12. 1H NMR (CD3OD) δ 1.35-1.40 (1H, m), 1.92-2.05 (1H, m), 2.10-2.20 (2H, m), 2.36 (3H, s), 2.30-2.38 (1H, m), 2.85-2.95 (2H, m), 3.25-3.35 (2H, m), 3.55-3.65 (2H, br. s), 7.15-7.25 (2H, m), 7.42-7.48 (2H, m), 7.50-7.60 (3H, m) LCMS (2) 1.96 min; m/z (ES+) 486.

reactant | methyl 2-(1-methyl-3-oxopiperazin-2-yl)acetate | 2.50 mmol, 0.500 g | CN1C(C(NCC1)=O)CC(=O)OC | C8H14N2O3
reactant | LiAlH4 | 6.24 mmol, 2M, 3.12 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-(1-methylpiperazin-2-yl)ethanol | 0.87 mmol, 0.125 g | CN1C(CNCC1)CCO | C7H16N2O
